US05608062
2-Bromo-4-trifluoroacetylfluorobenzene
6.4 g (0.023 mol) of 2,2,2-trifluoro-1-(3-bromo-4-fluorophenyl)ethanol and 0.4 g (0.0012 mol) of tetrabutylammonium hydrogen sulfate are dissolved in 100 ml of methylene chloride at room temperature. 14.4 ml (0.028 mol) of an approximately 12% strength sodium hypochlorite solution are metered in within 15 minutes with vigorous stirring and the mixture is stirred for a further 4 hours during which the reaction temperature rises to 27° C. The reaction mixture is added to 100 ml of water, the phases are separated, the aqueous phase is extracted several times with methylene chloride and the combined organic phases are washed with saturated aqueous sodium chloride solution. After drying the organic phase with sodium sulfate, the volatiles are distilled off. Following distillation of the crude product in a kugelrohr (0.5 mbar, 80°-100° C. bath temperature), 3.9 g (61.5% of theory) of 2-bromo-4-trifluoroacetylfluorobenzene are obtained. nD20 : 1.4905.

reactant | 2,2,2-trifluoro-1-(3-bromo-4-fluorophenyl)ethanol | 0.023 mol, 6.4 g | FC(C(O)C1=CC(=C(C=C1)F)Br)(F)F | C8H5BrF4O
reactant | sodium hypochlorite | Cl[O-].[Na+]
reactant | water | 100 ml | O | H2O
catalyst | tetrabutylammonium hydrogen sulfate | 0.0012 mol, 0.4 g | S(=O)(=O)(O)[O-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | 2-Bromo-4-trifluoroacetylfluorobenzene | BrC1=C(C=CC(=C1)C(C(F)(F)F)=O)F | C8H3BrF4O
